US05041619
160 g (1 mol) of diethyl malonate, 649 g (4 mol) of triethyl orthoacetate and 0.5 g of catalyst from Example 1 were heated to 130° C. in a glass apparatus having a distillation column. The metering-in of 102 g of acetic anhydride over the course of 7 h was then begun. The bottom temperature was increased to 159° C. with the distillation of low-boiling components at a head temperature of 72° to 73° C. After the end of the reaction, the residual low-boiling components were distilled off under a low vacuum and the excess triethyl orthoacetate was removed at 15 mbar. The desired product was then distilled over at 0.3 mbar and a head temperature of 100° to 102° C. Ethyl 2-carboethoxy-3-ethoxy-2-butenoate was obtained in a yield of 73% of the theoretical yield.

reactant | diethyl malonate | 1 mol, 160 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | triethyl orthoacetate | 4 mol, 649 g | C(C)(OCC)(OCC)OCC | C8H18O3
product | Ethyl 2-carboethoxy-3-ethoxy-2-butenoate | yield of 73% | C(=O)(OCC)C(C(=O)OCC)=C(C)OCC | C11H18O5
